US07396844B1
Synthesis of ethyl 4-(pyrrolidine-1-yl)benzoate
1.69 g (10.2 mmol) of ethyl 4-aminobenzoate was dissolved in 10 ml of benzene. 2.18 g (10.1 mmol) of 1,4-dibromobutane and 3.53 ml (20.2 mmol) of diisopropylethylamine were added to the solution, and they were heated under reflux for 48 hours. The reaction solution was diluted with water. After the extraction with ethyl acetate, the organic layer was washed with water and then with saturated Aqueous NaCl solution and dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the crude title compound.

reactant | ethyl 4-aminobenzoate | 10.2 mmol, 1.69 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 1,4-dibromobutane | 10.1 mmol, 2.18 g | BrCCCCBr | C4H8Br2
reactant | diisopropylethylamine | 20.2 mmol, 3.53 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | ethyl 4-(pyrrolidine-1-yl)benzoate | N1(CCCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H17NO2
